US07718693B2
2-Chloro-3,4-difluorobenzoic acid (2 g, 10.4 mmol) was treated with thionyl chloride (3.04 ml) and the mixture was heated to 80° C. for 90 minutes. The mixture was then cooled and reduced in vacuo. The residue was dissolved in anhydrous 1,4-dioxane (10 ml) and the mixture was then cooled in an ice-water bath. 0.88 Ammonia (aqueous, 25 ml) was added dropwise to the mixture which was subsequently allowed to warm to 22° C. over a period of 2 hrs. This process was repeated using 10.8 g of 2-chloro-3,4-difluorobenzoic acid, 8.2 ml of thionyl chloride, and 45 ml of 0.88 ammonia and then both mixtures were combined and partitioned between ethyl acetate (150 ml) and water (100 ml). The aqueous layer was separated and extracted with 2×150 ml aliquots of ethyl acetate. The combined organic extracts were then washed with saturated aqueous sodium hydrogen carbonate (100 ml), dried using a hydrophobic frit, and reduced in vacuo to give 2-chloro-3,4-difluorobenzamide (11.86 g) as a white solid.

reactant | 2-Chloro-3,4-difluorobenzoic acid | 10.4 mmol, 2 g | ClC1=C(C(=O)O)C=CC(=C1F)F | C7H3ClF2O2
reactant | thionyl chloride | 3.04 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Ammonia | 25 ml | N | H3N
reactant | 2-chloro-3,4-difluorobenzoic acid | 10.8 g | ClC1=C(C(=O)O)C=CC(=C1F)F | C7H3ClF2O2
reactant | thionyl chloride | 8.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-chloro-3,4-difluorobenzamide | 11.86 g | ClC1=C(C(=O)N)C=CC(=C1F)F | C7H4ClF2NO
